US08530467B2
Preparation of 3,5-difluoro-4-formyl-N-methylbenzamide
To an ice-cold solution of 3,5-difluoro-4-formylbenzoic acid (120 g, 645 mmol) in dichloromethane (1.5 L) and N,N-dimethylformamide (2.0 g, 27 mmol) was added oxalyl chloride (90 g, 709 mmol) drop-wise at a rate that allowed the mixture to not exceed an internal temperature of 10° C. The resulting mixture was stirred at the same temperature for 0.5 hr, warmed to room temperature, and stirred for an additional 1.5 hr. The solution was then cooled to 0° C., and aqueous methylamine (40%, 168 mL, 1.94 mol) was added drop-wise at a rate that allowed the mixture to not exceed an internal temperature of 7° C. Afterward, the mixture was quenched with aqueous HCl (2M, 335 mL, 670 mmol) and warmed to room temperature. The organic layer was separated, washed with brine (500 mL), dried over MgSO4, filtered, and concentrated under vacuum. The resulting residual solid was taken in MTBE (500 mL), and the resulting mixture was heated to reflux for 0.5 hr, cooled to room temperature, and stirred for 18 hr. Afterward, the mixture was cooled to 0° C., filtered, rinsed with pentane, and dried under vacuum to form the title compound (103 g, 80%) as a solid. 1H NMR (300 MHz, CDCl3) δ ppm 3.03 (d, J=4.86 Hz, 3H), 6.37 (br s, 1H), 7.36-7.42 (m, 2H), 10.36 (s, 1H); MS m/z 200.06 [M+H]+ (ESI).

reactant | 3,5-difluoro-4-formylbenzoic acid | 645 mmol, 120 g | FC=1C=C(C(=O)O)C=C(C1C=O)F | C8H4F2O3
reactant | oxalyl chloride | 709 mmol, 90 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 1.94 mol, 168 mL | CN | CH5N
reactant | HCl | 670 mmol, 2M, 335 mL | Cl | ClH
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 27 mmol, 2.0 g | CN(C=O)C | C3H7NO
product | 3,5-difluoro-4-formyl-N-methylbenzamide | 103 g, 80% | FC=1C=C(C(=O)NC)C=C(C1C=O)F | C9H7F2NO2
